US04822890
Preparation of Fmoc-Tyr(tBu)
6.52 g (27.5 mmoles) of finely ground O-t-butyl-tyrosine (Chemical Dynamics Corp.) was placed in a 500 mL round bottom flask (oven dried) which was fitted with a condenser (oven dried). A nitrogen gas line was attached at the top of the condenser. The solid was suspended in 100 mL of dry dioxane and stirred vigorously. Diisopropylethylamine (9.04 mL, 80 mmoles) was added. Tms-Cl (6.98 mL, 55 mmoles) was added and let stir for 1 hour. Methylene chloride (200 mL) was added and the entire mixture was chilled in an ice bath. 9-Fluorenyl-methyloxycarbonyl chloride (6.47 g, 25 mmole) was added in one portion. The solution was stirred in ice for 20 minutes and warmed to room temperature for 1-1.5 hrs. The mixture was concentrated on a rotary evaporator and then distributed between 200 mL diethyl ether and 250 mL 2.5% sodium bicarbonate. The phases were separated and the aqueous layer was extracted with 2×50 mL diethyl ether. The ether layers were backwashed with 2×25 mL H2O. The combined aqueous layers were acidified to pH with 10% citric acid and extracted with 600 mL methylene chloride. The organic layers were dried over sodium sulfate, concentrated to an oil and dried by azeotroping with 2×30 mL acetonitrile. The oil solidified by pumping under high vacuum. Appropriate solvents were used to recrystallize the product. The product was found to be homogeneous (Table II).

reactant | O-t-butyl-tyrosine | C(C)(C)(C)OC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C13H19NO3
reactant | Diisopropylethylamine | 80 mmoles, 9.04 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 9-Fluorenyl-methyloxycarbonyl chloride | 25 mmole, 6.47 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
solvent | Methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | Fmoc-Tyr(tBu) | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H29NO5
